US05227398
After 6.323 g (17.183 mmol) of (N-methyl-1,3-benzodioxol-5-ylamino)-N-t-butoxycarbonyl-S-methyl-L-cysteinamide were dissolved in 100 ml of ethyl acetate, an excess of hydrochloric acid was ebulated. A precipitate so precipitated was collected by filtration, washed with ether, and then dried under reduced pressure, whereby 4.5 g of (N-methyl-1,3-benzodioxol-5-ylamino)-S-methyl-L-cysteinamide hydrochloride were obtained (yield: 86%).

reactant | (N-methyl-1,3-benzodioxol-5-ylamino)-N-t-butoxycarbonyl-S-methyl-L-cysteinamide | 17.183 mmol, 6.323 g | CN(C1=CC2=C(OCO2)C=C1)N[C@@H](CSC)C(=O)NC(=O)OC(C)(C)C | C17H25N3O5S
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (N-methyl-1,3-benzodioxol-5-ylamino)-S-methyl-L-cysteinamide hydrochloride | 4.5 g, yield: 86% | Cl.CN(C1=CC2=C(OCO2)C=C1)N[C@@H](CSC)C(=O)N | InChI=1S/C12H17N3O3S.ClH/c1-15(14-9(6-19-2)12(13)16)8-3-4-10-11(5-8)18-7-17-10;/h3-5,9,14H,6-7H2,1-2H3,(H2,13,16);1H/t9-;/m0./s1
